US06927214B1
2-Chloro-6,7-difluoro-3-styrylquinoxaline
The above 6,7-difluoro-3-styryl-1H-quinoxalin-2-one (2.65 g, 0.93 mmol) was mixed with 4-dimethylaminopyridine (0.27 g) and POCl3 (27 ml) and the mixture was refluxed for 30 minutes. After cooling, the mixture was poured onto ice (400 ml) and the solid was filtered, washed with water (3×) and dried in vacuo overnight. Column chromatography on silica gel, eluting with ethyl acetate:heptane 1:20 afforded 1.6 g (56%) of the title compound.

reactant | 6,7-difluoro-3-styryl-1H-quinoxalin-2-one | 0.93 mmol, 2.65 g | FC=1C=C2N=C(C(NC2=CC1F)=O)C=CC1=CC=CC=C1 | C16H10F2N2O
reactant | POCl3 | 27 ml | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | 4-dimethylaminopyridine | 0.27 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Chloro-6,7-difluoro-3-styrylquinoxaline | 1.6 g, 56% | ClC1=NC2=CC(=C(C=C2N=C1C=CC1=CC=CC=C1)F)F | C16H9ClF2N2
